### ISSUE TITLE
feat(QPBT/Algebra): prove self-dual coordinate identities

### ISSUE THREAD

**Issue by Dengnifer** [Dengnifer/MIPStarRE-A#66]
### Motivation

Stage 4.3 needs the exact finite-field coordinate identities used throughout the
Pauli/Fourier algebra and later extraction argument. The statements are already
source-aligned; this packet proves the eleven remaining obligations in
`MIPStarRE/QPBT/Algebra/SelfDualBasisTheorems.lean` without changing their
interfaces.

### Target declarations

1. `basisCoord_apply_eq_trace`
2. `trace_mul_eq_dotProduct_basisCoord`
3. `trace_basis_eq_one_of_selfDual_normal`
4. `basisCoord_one_of_selfDual_normal`
5. `fixedFieldModel_trace_basis_eq_one`
6. `fixedFieldModel_basisCoord_one`
7. `basisCoord_apply_eq_fixedBinTrace`
8. `kappa_apply_eq_binTrace`
9. `binTrace_mul_eq_dotProduct`
10. `chi_mulVec_basisCoord`
11. `fixedFieldModel_chi_mulVec_basisCoord`

Keep the already-proved wrapper `chi_mulVec_kappa` unchanged and verify that it
becomes axiom-clean through `fixedFieldModel_chi_mulVec_basisCoord`.

### Sources

- Coordinate/trace identities and matrix compatibility:
  `references/qpbt-paper/04_preliminaries.tex:504-550`, lemma
  `lem:downsize_field`.
- Trace-one and all-ones-coordinate identities:
  `references/qpbt-paper/04_preliminaries.tex:730-767`, lemma `lem:one`.
- Basis, coordinate-map, and multiplication-table definitions:
  `references/qpbt-paper/04_preliminaries.tex:433-502,669-700`.
- Blueprint: `blueprint/src/chapter/ch11_qpbt_algebra.tex:241-311`.

### Dependencies and proof order

This packet depends only on the existing `FieldBasis` and `SelfDualBasis` API.
It does not depend on the proofs in #65 and may run in parallel with them.

First prove `basisCoord_apply_eq_trace` from self-duality and Mathlib's trace
matrix identity. Derive `trace_mul_eq_dotProduct_basisCoord` by expanding one
factor in the basis and using trace linearity.

Next prove that trace is invariant under the binary Frobenius automorphism.
Normality then makes the traces of all basis elements equal. Show the common
value is nonzero using self-duality and basis-coordinate injectivity, conclude
that it is one in `ZMod 2`, and derive the fixed-model wrappers.

Independently, prove `chi_mulVec_basisCoord` by extensionality on the
`(row, basis-coordinate)` index, splitting the product-indexed matrix sum, and
using basis reconstruction for each vector entry. Then obtain the fixed-model
specialization definitionally.

Finish the `fixedBinTrace`, `binTrace`, and `kappa` spellings from the generic
coordinate and trace identities. A minimal finite-field Frobenius/trace import
is permitted if not already available transitively.

### Statement integrity

Preserve every public signature, constant, index order, and quantifier order.
Do not add finite-dimensionality, separability, cardinality, nonemptiness, or
normality hypotheses; derive required finite/free instances locally.

Items 1 and 2 require self-duality. `chi_mulVec_basisCoord` deliberately does
not; do not add it there. Retain `hk : Odd k` on the two `lem:one` results.
For `chi_mulVec_basisCoord`, preserve block ordering `(matrix row, basis
coordinate)` and `(matrix column, basis coordinate)`.

Do not use unresolved existence or `binaryCoordinates_mul` proofs as shortcuts.
All eleven targets and `chi_mulVec_kappa` must have no transitive `sorryAx`.

### Ownership and non-goals

- Own only `MIPStarRE/QPBT/Algebra/SelfDualBasisTheorems.lean`.
- Keep support lemmas private or file-local.
- Do not edit `SelfDualBasis.lean`, `FieldBasis.lean`, Pauli algebra, field-model
  construction, blueprint files, or downstream observables.
- Do not prove `exists_selfDualNormalBasis`, `exists_fixed_field_model`, or
  `binaryCoordinates_mul`.

### Acceptance

- All eleven targets contain no `sorry`, `admit`, axiom, or prohibited bypass.
- The owned file has no remaining proof holes.
- `#print axioms` for every target and `chi_mulVec_kappa` reports no `sorryAx`.
- The statement-integrity audit classifies the generic source results and the
  definition-preserving fixed-model specializations explicitly.
- The owned file passes direct Lean checking.
- Blueprint status/axiom audits, declaration checking/rendering, the full build,
  diff check, exact-head CI, and independent review pass.

---
Stage 4.3 proof packet under #47.

**Comment by Dengnifer** [comment]
### Compile-tested exact proof harness

All eleven target declarations compile with unchanged signatures in this harness; the final `chi_mulVec_kappa` declaration verifies the downstream wrapper. Every `#print axioms` result contains only `propext`, `Classical.choice`, and `Quot.sound`, with no `sorryAx`. #65 is not a proof dependency because these theorems take an explicit fixed model.

<details><summary>Full Lean harness</summary>

```lean
import MIPStarRE.QPBT.Algebra.SelfDualBasis

open scoped BigOperators Matrix

namespace MIPStarRE.QPBT

open MIPStarRE.LDT

theorem basisCoord_apply_eq_trace {F K ι : Type*} [Field F] [Field K]
    [Algebra F K] [Fintype ι] [DecidableEq ι] (b : Module.Basis ι F K)
    (hself : Basis.IsSelfDual b) (x : K) (i : ι) :
    b.equivFun x i = Algebra.trace F K (x * b i) := by
  classical
  have hGram : Algebra.traceMatrix F b = 1 := by
    ext j l
    simp [Algebra.traceMatrix_apply, Algebra.traceForm_apply, hself j l,
      Matrix.one_apply]
  have h := Algebra.traceMatrix_of_basis_mulVec b x
  simpa [hGram] using congrFun h i

theorem trace_mul_eq_dotProduct_basisCoord {F K ι : Type*} [Field F] [Field K]
    [Algebra F K] [Fintype ι] [DecidableEq ι] (b : Module.Basis ι F K)
    (hself : Basis.IsSelfDual b) (x y : K) :
    Algebra.trace F K (x * y) = dotProduct (b.equivFun x) (b.equivFun y) := by
  calc
    Algebra.trace F K (x * y) =
        Algebra.trace F K (x * ∑ i, b.equivFun y i • b i) := by
      rw [b.sum_equivFun]
    _ = ∑ i, Algebra.trace F K (x * (b.equivFun y i • b i)) := by
      rw [Finset.mul_sum, map_sum]
    _ = ∑ i, b.equivFun y i * Algebra.trace F K (x * b i) := by
      apply Finset.sum_congr rfl
      intro i _
      rw [mul_smul_comm, map_smul, smul_eq_mul]
    _ = ∑ i, b.equivFun x i * b.equivFun y i := by
      apply Finset.sum_congr rfl
      intro i _
      rw [← basisCoord_apply_eq_trace b hself x i, mul_comm]
    _ = dotProduct (b.equivFun x) (b.equivFun y) := rfl

theorem trace_basis_eq_one_of_selfDual_normal {K : Type*} [Field K] [Fintype K]
    [Algebra (ZMod 2) K] {k : ℕ} (hk : Odd k)
    (b : Module.Basis (Fin k) (ZMod 2) K)
    (hself : Basis.IsSelfDual b) (hnormal : Basis.IsNormal b) (i : Fin k) :
    Algebra.trace (ZMod 2) K (b i) = 1 := by
  obtain ⟨α, hα⟩ := hnormal
  have htrace (j : Fin k) :
      Algebra.trace (ZMod 2) K (b j) = Algebra.trace (ZMod 2) K α := by
    rw [hα j]
    have hFrob := Algebra.trace_eq_of_algEquiv
      ((FiniteField.frobeniusAlgEquivOfAlgebraic (ZMod 2) K) ^ j.1) α
    simpa [AlgEquiv.coe_pow,
      FiniteField.coe_frobeniusAlgEquivOfAlgebraic_iterate] using hFrob
  let i0 : Fin k := ⟨0, Odd.pos hk⟩
  have hFrob := Algebra.trace_eq_of_algEquiv
    (FiniteField.frobeniusAlgEquivOfAlgebraic (ZMod 2) K) (b i0)
  have htraceSquare : Algebra.trace (ZMod 2) K (b i0 ^ 2) =
      Algebra.trace (ZMod 2) K (b i0) := by
    simpa [FiniteField.coe_frobeniusAlgEquivOfAlgebraic, ZMod.card] using hFrob
  have hone : Algebra.trace (ZMod 2) K (b i0) = 1 := by
    calc
      Algebra.trace (ZMod 2) K (b i0) =
          Algebra.trace (ZMod 2) K (b i0 ^ 2) := htraceSquare.symm
      _ = Algebra.trace (ZMod 2) K (b i0 * b i0) := by rw [pow_two]
      _ = 1 := by simpa using hself i0 i0
  calc
    Algebra.trace (ZMod 2) K (b i) = Algebra.trace (ZMod 2) K α := htrace i
    _ = Algebra.trace (ZMod 2) K (b i0) := (htrace i0).symm
    _ = 1 := hone

theorem basisCoord_one_of_selfDual_normal {K : Type*} [Field K] [Fintype K]
    [Algebra (ZMod 2) K] {k : ℕ} (hk : Odd k)
    (b : Module.Basis (Fin k) (ZMod 2) K)
    (hself : Basis.IsSelfDual b) (hnormal : Basis.IsNormal b) :
    b.equivFun 1 = fun _ => 1 := by
  funext i
  rw [basisCoord_apply_eq_trace b hself, one_mul,
    trace_basis_eq_one_of_selfDual_normal hk b hself hnormal i]

theorem fixedFieldModel_trace_basis_eq_one {q : ℕ} (F : FixedFieldModel q)
    (i : Fin F.basisDim) : Algebra.trace (ZMod 2) F.K (F.basis i) = 1 := by
  exact trace_basis_eq_one_of_selfDual_normal
    F.basisDimOdd F.basis F.selfDual F.normal i

theorem fixedFieldModel_basisCoord_one {q : ℕ} (F : FixedFieldModel q) :
    F.binaryCoordinates 1 = fun _ => 1 := by
  exact basisCoord_one_of_selfDual_normal
    F.basisDimOdd F.basis F.selfDual F.normal

theorem basisCoord_apply_eq_fixedBinTrace {q : ℕ} (F : FixedFieldModel q)
    (x : F.K) (i : Fin F.basisDim) :
    F.basis.equivFun x i = fixedBinTrace F (x * F.basis i) := by
  exact basisCoord_apply_eq_trace F.basis F.selfDual x i

theorem kappa_apply_eq_binTrace {q : ℕ} (F : FixedFieldModel q)
    (x : F.K) (i : Fin F.basisDim) :
    F.binaryCoordinates x i = binTrace F.K (x * F.basis i) := by
  exact basisCoord_apply_eq_trace F.basis F.selfDual x i

theorem binTrace_mul_eq_dotProduct {q : ℕ} (F : FixedFieldModel q)
    (x y : F.K) :
    binTrace F.K (x * y) = dotProduct (F.binaryCoordinates x) (F.binaryCoordinates y) := by
  exact trace_mul_eq_dotProduct_basisCoord F.basis F.selfDual x y

noncomputable def kappaVec {q : ℕ} {ι : Type*} (F : FixedFieldModel q)
    (v : ι → F.K) : ι × Fin F.basisDim → ZMod 2 :=
  basisCoordVec F.basis v

theorem chi_mulVec_basisCoord {F K : Type*} [Field F] [Field K] [Algebra F K]
    {κ : Type*} [Fintype κ] [DecidableEq κ] {s t : ℕ}
    (b : Module.Basis κ F K) (M : Matrix (Fin s) (Fin t) K) (v : Fin t → K) :
    chiOfBasis b M *ᵥ basisCoordVec b v = basisCoordVec b (M *ᵥ v) := by
  classical
  ext p
  simp only [Matrix.mulVec, dotProduct, chiOfBasis, basisCoordVec,
    Fintype.sum_prod_type]
  rw [map_sum]
  simp only [Finset.sum_apply]
  apply Finset.sum_congr rfl
  intro j _
  simp_rw [Module.Basis.equivFun_apply, ← Algebra.leftMulMatrix_eq_repr_mul]
  exact congrFun (Algebra.leftMulMatrix_mulVec_repr b (M p.1 j) (v j)) p.2

theorem fixedFieldModel_chi_mulVec_basisCoord {q s t : ℕ} (F : FixedFieldModel q)
    (M : Matrix (Fin s) (Fin t) F.K) (v : Fin t → F.K) :
    chi F M *ᵥ kappaVec F v = kappaVec F (M *ᵥ v) := by
  exact chi_mulVec_basisCoord F.basis M v

theorem chi_mulVec_kappa {q s t : ℕ} (F : FixedFieldModel q)
    (M : Matrix (Fin s) (Fin t) F.K) (v : Fin t → F.K) :
    chi F M *ᵥ kappaVec F v = kappaVec F (M *ᵥ v) := by
  exact fixedFieldModel_chi_mulVec_basisCoord F M v

#print axioms basisCoord_apply_eq_trace
#print axioms trace_mul_eq_dotProduct_basisCoord
#print axioms trace_basis_eq_one_of_selfDual_normal
#print axioms basisCoord_one_of_selfDual_normal
#print axioms fixedFieldModel_trace_basis_eq_one
#print axioms fixedFieldModel_basisCoord_one
#print axioms basisCoord_apply_eq_fixedBinTrace
#print axioms kappa_apply_eq_binTrace
#print axioms binTrace_mul_eq_dotProduct
#print axioms chi_mulVec_basisCoord
#print axioms fixedFieldModel_chi_mulVec_basisCoord
#print axioms chi_mulVec_kappa

end MIPStarRE.QPBT

```

</details>
